US05470845
A. 1-Bromo-4-(phenylmethyl)benzene
To a stirred solution of 21 mL (42 mmol, 2.0M in THF) of benzylmagnesium chloride at room temperature under nitrogen was added a solution of 6.80 g (50.0 mmol) of thrice-fused zinc chloride in 0 50 mL of THF. The resulting tan slurry was stirred for 1 hour. To this slurry was added 10.0 g (35.3 mmol) 1-bromo-4-iodobenzene and 450 mg (0.4 mmol) of tetrakis(tri-phenylphosphine)palladium in 30 mL of THF. The reaction was stirred at room temperature for 16 hours and then quenched with 50 mL of 2M hydro-chloric acid. The mixture was extracted thrice with hexanes, the extracts combined, washed once with saturated sodium bicarbonate solution and once with 10% sodium thiosulfate. The organic extract was dried (MgSO4) and evaporated. The crude product was purified by flash chromatography on silica gel (5×25 cm column, hexanes as elutent) to give 7.05 g (80%) of title compound as a colorless oil.

reactant | benzylmagnesium chloride | 42 mmol, 2.0M, 21 mL | C(C1=CC=CC=C1)[Mg]Cl
reactant | 1-bromo-4-iodobenzene | 35.3 mmol, 10.0 g | BrC1=CC=C(C=C1)I | C6H4BrI
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1-Bromo-4-(phenylmethyl)benzene | 7.05 g, 80% | BrC1=CC=C(C=C1)CC1=CC=CC=C1 | C13H11Br
